US07459554B2
3-(8-Amino-3-cyclobutyl-imidazo[1,5-a]pyrazin-1-yl)-phenol:
A solution of 1-(3-Benzyloxy-phenyl)-3-cyclobutyl-imidazo[1,5-a]pyrazin-8-ylamine (1.82 g, 4.92 mmol) in 4M HCl in dioxane (20 mL) was heated to 75° C. in a sealed tube for 1.5 h. The reaction was allowed to cool to rt, the dioxane was decanted off and the brown gum residue was cooled to 0° C. in an ice-bath and charged with 7N NH3 in MeOH until basic. The reaction mixture was concentrated in vacuo, triturated with EtOAc and CHCl3, and the NH4Cl salts filtered off. The filtrate was concentrated in vacuo and purified by flash silica chromatography (8% MeOH in CHCl3) resulting in an off-white solid; 1H NMR (DMSO-d6, 400 MHz) δ 1.84-1.99 (m, 1H), 2.00-2.16 (m, 1H), 2.34-2.48 (m, 4H), 3.86-4.00 (m, 1H), 6.08 (brs, 2H), 6.81 (dd, 1H, J=8.4 Hz, 8.0 Hz), 6.95-7.06 (m, 3H), 7.30 (t, 1H, J=8.4 Hz); 7.41 (d, 1H, J=5.2 Hz), 9.63 (brs, 1H); MS (ES+): m/z 281.39 [MH+].

reactant | 1-(3-Benzyloxy-phenyl)-3-cyclobutyl-imidazo[1,5-a]pyrazin-8-ylamine | 4.92 mmol, 1.82 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1N=C(N2C1C(=NC=C2)N)C2CCC2 | C23H22N4O
solvent | HCl | 4M | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 3-(8-Amino-3-cyclobutyl-imidazo[1,5-a]pyrazin-1-yl)-phenol | NC=1C=2N(C=CN1)C(=NC2C=2C=C(C=CC2)O)C2CCC2 | C16H16N4O
